US04230628
Preparation of N-[4-(15-carbomethoxypentadecylamino)benzoyl]alanine
A solution of 4.75 g. of N-trifluoroacetyl-4-(15-carbomethoxypentadecylamino)benzoyl chloride and 1.2 g. of triethylamine in 20 ml. of warm ether is treated with 1.55 g. alanine ethyl ester and refluxed for 24 hours. The hot solution is filtered, the residue is washed with hot ether, and the solution is evaporated. After treatment with aqueous methanolic potassium carbonate, the product is precipitated by acidification, filtered, and dried. Crystallization from acetone yields the product as a white, crystalline solid.

reactant | N-trifluoroacetyl-4-(15-carbomethoxypentadecylamino)benzoyl chloride | FC(C(=O)N(C1=CC=C(C(=O)Cl)C=C1)CCCCCCCCCCCCCCCC(=O)OC)(F)F | C26H37ClF3NO4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | alanine ethyl ester | C(C)OC([C@@H](N)C)=O | C5H11NO2
solvent | ether | CCOCC | C4H10O
product | N-[4-(15-carbomethoxypentadecylamino)benzoyl]alanine | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)N[C@@H](C)C(=O)O)C=C1 | C27H44N2O5
